US04948795
To a solution of imidazole 0.68 g and N,N-dimethylformamide 20 ml was added 60% sodium hydride 0.60 g under ice-cooling, followed by stirring at room temperature for 5 minutes. To the resultant mixture was added 1-ethoxycarbonyl-4-(3-mesyloxypropyl)piperazine 3.68 g and the mixture was stirred at room temperature overnight. To the reaction mixture were added saturated solution of sodium hydrogen carbonate 50 ml and ethyl acetate 200 ml and the organic layer was taken using a separating funnel, dried over anhydrous magnesium sulfate and the solvent distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography (eluent: 10% methanol-ethyl acetate), and dissolved in ethanol 25 ml. To the solution was added 10% sodium hydroxide 25 ml and the mixture refluxed overnight. After cooling, ethyl acetate 100 ml was added to the solution, the organic layer was separated, and the aqueous layer extracted with ethyl acetate. The organic layers were combined, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give 1.39 g of 1-[3-(1-imidazolyl)propyl]piperazine.

reactant | imidazole | 0.68 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 0.60 g | [H-].[Na+]
reactant | 1-ethoxycarbonyl-4-(3-mesyloxypropyl)piperazine | 3.68 g | C(C)OC(=O)N1CCN(CC1)CCCOS(=O)(=O)C | C11H22N2O5S
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-[3-(1-imidazolyl)propyl]piperazine | 1.39 g | N1(C=NC=C1)CCCN1CCNCC1 | C10H18N4
